US05428158
Cool lithium hexamethyldisilazane (4.2 mL, 4.2 mol, 1.0M in tetrahydrofuran) to -78° C. and treat with a solution of 5-(carbomethoxy)-2,4,5,6- tetrahydro-cyclopenta[c]furan (589 mg, 3.55 mmol) in tetrahydrofuran (5 mL). Stir for 1 hour then add hexamethylphosphoramide (0.93 mL, 5.3 mmol) and stir for 5 minutes. Add 4-methoxybenzyl disulfide (1.6 g, 5.2 mmol) in tetrahydrofuran (10 mL). Stir for 5 hours at -78° C. and quench with a solution of ammonium chloride. Partition between ethyl acetate (75 mL) and brine (30 mL). Dry (Na2SO4), evaporate the solvent in vacuo and purify by silica gel chromatography to give 5-(carbomethoxy)-5-(4-methoxybenzylthio)-2,4,5,6-tetrahydro-cyclopenta[c]furan.

reactant | lithium hexamethyldisilazane | 4.2 mol, 1.0M, 4.2 mL | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | 5-(carbomethoxy)-2,4,5,6- tetrahydro-cyclopenta[c]furan | 3.55 mmol, 589 mg | C(=O)(OC)C1CC=2C(=COC2)C1 | C9H10O3
reactant | hexamethylphosphoramide | 5.3 mmol, 0.93 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | 4-methoxybenzyl disulfide | 5.2 mmol, 1.6 g | COC1=CC=C(CSSCC2=CC=C(C=C2)OC)C=C1 | C16H18O2S2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-(carbomethoxy)-5-(4-methoxybenzylthio)-2,4,5,6-tetrahydro-cyclopenta[c]furan | C(=O)(OC)C1(CC=2C(=COC2)C1)SCC1=CC=C(C=C1)OC | C17H18O4S
